US04751240
Oxalyl chloride (3.3 ml.) was added to a stirred solution of the 2-p-fluorophenyl-4-m-methoxyphenylbutyric acid thus obtained (6.7 g.) and dimethylformamide (0.05 ml.) in toluene (50 ml.) and the mixture was stirred at laboratory temperature for 2 hours and then evaporated to dryness. The residue was dissolved in methylene chloride (100 ml.), the solution was stirred and cooled to -20° C. and stannic chloride (3.2 ml.) was added. The mixture was stirred for 2 hours and then poured into ice-water (250 ml.) and the mixture was extracted three times with methylene chloride (100 ml. each time). The combined extracts were washed with saturated aqueous sodium bicarbonate solution and then with water, dried and evaporated to dryness and the residue was stirred with methanol. The mixture was filtered and there was thus obtained as solid residue 2-p-fluorophenyl-3,4-dihydro-6-methoxy -naphthalen-1(2H)-one, m.p. 124-127° C.

reactant | Oxalyl chloride | 3.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-p-fluorophenyl-4-m-methoxyphenylbutyric acid | FC1=CC=C(C=C1)C(C(=O)O)CCC1=CC(=CC=C1)OC | C17H17FO3
reactant | dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-p-fluorophenyl-3,4-dihydro-6-methoxy -naphthalen-1(2H)-one | FC1=CC=C(C=C1)C1C(C2=CC=C(C=C2CC1)OC)=O | C17H15FO2
